US07696223B2
b) 4-Bromo-2-bromomethyl-5-(4-fluoro-phenyl)-1-(4-methoxy-phenyl)-1H-pyrrole-3-carboxylic acid ethyl ester
Prepared in analogy to that of 4-bromo-2-bromomethyl-5-(4-fluoro-phenyl)-1-phenyl-1H-pyrrole-3-carboxylic acid ethyl ester from 5-(4-fluoro-phenyl)-1-(4-methoxy-phenyl)-2-methyl-1H-pyrrole-3-carboxylic acid ethyl ester. The title compound, ESI MS (m/z): 430 (M−HBr+H+).

reactant | 4-bromo-2-bromomethyl-5-(4-fluoro-phenyl)-1-phenyl-1H-pyrrole-3-carboxylic acid ethyl ester | C(C)OC(=O)C1=C(N(C(=C1Br)C1=CC=C(C=C1)F)C1=CC=CC=C1)CBr | C20H16Br2FNO2
reactant | 5-(4-fluoro-phenyl)-1-(4-methoxy-phenyl)-2-methyl-1H-pyrrole-3-carboxylic acid ethyl ester | C(C)OC(=O)C1=C(N(C(=C1)C1=CC=C(C=C1)F)C1=CC=C(C=C1)OC)C | C21H20FNO3
product | 4-Bromo-2-bromomethyl-5-(4-fluoro-phenyl)-1-(4-methoxy-phenyl)-1H-pyrrole-3-carboxylic acid ethyl ester | C(C)OC(=O)C1=C(N(C(=C1Br)C1=CC=C(C=C1)F)C1=CC=C(C=C1)OC)CBr | C21H18Br2FNO3
